US04835275
9-(2-Methoxybenzylamino)-1,2,3,4-tetrahydroacridin-1ol
3,4-Dihydro-9-(2-methoxybenzylamino)acridin-1(2H)-one (4.0 g) was dissolved in 100 ml of dry THF and chilled in ice-water. 1M lithium aluminum hydride in THF (6.5 ml) was added through a syringe. The reaction mixture was stirred 30 minutes in the cold and then an additional 2.0 ml of 1M lithium aluminum hydride solution was added. The reaction mixture was quenched by the sequential addition of 0.5 ml of water, 0.5 ml of 15% sodium hydroxide and 1.5 ml of water. The inorganic salts were filtered from the reaction and the organic phase was evaporated to a gum. Trituration with ether gave a solid (2.95 g). Analytically pure material was obtained by recrystallization from ethyl acetate-pentate, mp 115°-117° C.

reactant | 3,4-Dihydro-9-(2-methoxybenzylamino)acridin-1(2H)-one | 4.0 g | COC1=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=CC=C1 | C21H20N2O2
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 1M, 2.0 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 6.5 ml | C1CCOC1 | C4H8O
product | 9-(2-Methoxybenzylamino)-1,2,3,4-tetrahydroacridin-1ol | 2.95 g | COC1=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=CC=C1 | C21H22N2O2
